US07745646B2
Sodium ethoxide (2.0 g, 29 mmol) was added to a solution of methyl 3-(2,3-bis(cyclopentyloxy)-4-methoxyphenyl)-3-oxopropanoate (11 g, 29 mmol) and ethanol (150 mL) at rt. After refluxing for 1 h, ((2-bromoethoxy)methyl)benzene (12.5 g, 57.8 mmol) was added and refluxing was continued overnight. The reaction was allowed to cool to rt, concentrated, diluted with ethyl acetate (300 mL), and then washed with brine (50 mL×2). The organic layer was dried, filtered, concentrated, and purified by silica gel chromatography (ethyl acetate:petroleum ether) to give ethyl 4-(benzyloxy)-2-(2,3-bis(cyclopentyloxy)-4-methoxybenzoyl)butanoate: MS (ESI): 525.

reactant | Sodium ethoxide | 29 mmol, 2.0 g | [O-]CC.[Na+]
reactant | methyl 3-(2,3-bis(cyclopentyloxy)-4-methoxyphenyl)-3-oxopropanoate | 29 mmol, 11 g | C1(CCCC1)OC1=C(C=CC(=C1OC1CCCC1)OC)C(CC(=O)OC)=O | C21H28O6
reactant | ((2-bromoethoxy)methyl)benzene | 57.8 mmol, 12.5 g | BrCCOCC1=CC=CC=C1 | C9H11BrO
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | ethyl 4-(benzyloxy)-2-(2,3-bis(cyclopentyloxy)-4-methoxybenzoyl)butanoate | C(C1=CC=CC=C1)OCCC(C(=O)OCC)C(C1=C(C(=C(C=C1)OC)OC1CCCC1)OC1CCCC1)=O | C31H40O7
